US05385880
Synthesis of 2-(4,6-dimethoxypyrimidin-2-yloxy)-4-phenylnicotinic acid (Compound No. 7)
2.6 g (0.007 mol) of methyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-4-phenylnicotinate and 50 ml of dimethylsulfoxide were weighed, and 4.6 ml (0.009 mol) of 2N sodium hydroxide aqueous solution was added dropwise thereto at 60° C. After the dropwise addition, the resultant mixture was further stirred for 30 minutes at 60° C. The resultant mixture was poured into water, and was washed twice with ethyl acetate. The aqueous layer was then adjusted to pH 2 with 10% hydrochloric acid aqueous solution, and the precipitated crystal was filtrated out. The crystal thus obtained was washed with water, and was then dried. The dried crystal was recrystallized with ethyl acetate to obtain 1.1 g of a white crystal.

reactant | methyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-4-phenylnicotinate | 0.007 mol, 2.6 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=N1)C1=CC=CC=C1 | C19H17N3O5
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.009 mol, 2N, 4.6 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(4,6-dimethoxypyrimidin-2-yloxy)-4-phenylnicotinic acid | 1.1 g, Yield: 44% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=N1)C1=CC=CC=C1 | C18H15N3O5
